US08044052B2
Diethyl 3-(5-methylpyridin-2-yloxy)benzylphosphonate
2-(3-(Chloromethyl)phenoxy)-5-methylpyridine (2.0 g, 8.8 mmol) was treated neat with triethylphosphite (1.89 mL, 11 mmol) and heated to 150° C. After 16 h, the reaction mixture was cooled to room temperature and partioned between water and ethyl acetate. The organic layer was separated and the aqueous was extracted again with ethyl acetate. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a residue. The residue was purified by silica gel chromatography (10-75%, EtOAc:CH2Cl2) to afford the title compound (1.75 g, 59% yield) as a thick oil.

reactant | 2-(3-(Chloromethyl)phenoxy)-5-methylpyridine | 8.8 mmol, 2.0 g | ClCC=1C=C(OC2=NC=C(C=C2)C)C=CC1 | C13H12ClNO
reactant | triethylphosphite | 11 mmol, 1.89 mL | C(C)OP(OCC)OCC | C6H15O3P
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl 3-(5-methylpyridin-2-yloxy)benzylphosphonate | 1.75 g, 59% yield | CC=1C=CC(=NC1)OC=1C=C(CP(OCC)(OCC)=O)C=CC1 | C17H22NO4P
